US08729077B2
(R)-3-(4-{4′-[2-((S)-1-tert-Butoxycarbonyl-pyrrolidin-2-yl)-1H-imidazol-4-yl]-biphenyl-4-yl}-1H-imidazol-2-yl)-1,8-dioxa-4-aza-spiro[4.5]decane-4-carboxylic acid benzyl ester (0.04 gm, 0.05 mmol) was dissolved in DCM (2 mL), TFA (2 mL) was added and the mixture stirred for 2 hours. The solvent was evaporated, the residue redissolved in EtOAc (20 mL) and the organics washed with aqueous NaHCO3, water and brine. Drying the organic layer afforded (R)-3-{4-[4′-((S)-2-pyrrolidin-2-yl-1H-imidazol-4-yl)-biphenyl-4-yl]-1H-imidazol-2-yl}-1,8-dioxa-4-aza-spiro[4.5]decane-4-carboxylic acid benzyl ester (0.015 gm, 44%). LCMS 631.0 (M+1).

reactant | (R)-3-(4-{4′-[2-((S)-1-tert-Butoxycarbonyl-pyrrolidin-2-yl)-1H-imidazol-4-yl]-biphenyl-4-yl}-1H-imidazol-2-yl)-1,8-dioxa-4-aza-spiro[4.5]decane-4-carboxylic acid benzyl ester | 0.05 mmol, 0.04 gm | C(C1=CC=CC=C1)OC(=O)N1[C@@H](COC12CCOCC2)C=2NC=C(N2)C2=CC=C(C=C2)C2=CC=C(C=C2)C=2N=C(NC2)[C@H]2N(CCC2)C(=O)OC(C)(C)C | C42H46N6O6
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (R)-3-{4-[4′-((S)-2-pyrrolidin-2-yl-1H-imidazol-4-yl)-biphenyl-4-yl]-1H-imidazol-2-yl}-1,8-dioxa-4-aza-spiro[4.5]decane-4-carboxylic acid benzyl ester | 0.015 gm, 44% | C(C1=CC=CC=C1)OC(=O)N1[C@@H](COC12CCOCC2)C=2NC=C(N2)C2=CC=C(C=C2)C2=CC=C(C=C2)C=2N=C(NC2)[C@H]2NCCC2 | C37H38N6O4
